US04349684
9-[3-(4-Chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] pelargonic acid methyl ester
The product is produced as described in example 1 from 1.35 g of NaH (80% suspension in mineral oil), 12.2 g of 1-(4-chlorophenyl)-5-phenyl-4-imidazolin-2-one, 90 cc. of DMF, 11.3 g of 9-bromo-nonanic acid methyl ester and 1.35 g of NaJ.

reactant | NaH | 1.35 g | [H-].[Na+]
reactant | 1-(4-chlorophenyl)-5-phenyl-4-imidazolin-2-one | 12.2 g | ClC1=CC=C(C=C1)N1C(NC=C1C1=CC=CC=C1)=O | C15H11ClN2O
reactant | 9-bromo-nonanic acid methyl ester | 11.3 g | COC(CCCCCCCCBr)=O | C10H19BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 9-[3-(4-Chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] pelargonic acid methyl ester | COC(CCCCCCCCN1C(N(C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O)=O | C25H29ClN2O3
